US08314094B2
9) Synthesis of 4-fluoro-N-{[2-oxo-6-(1H-pyrazol-5-yl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}benzamide
N-{[6-Bromo-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide (4.0 g, 8.94 mmol), [1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl]boronic acid (2.63 g, 13.42 mmol), a palladium chloride-1,1-bis(diphenylphosphino)ferrocene complex (654 mg, 0.894 mmol) and potassium phosphate trihydrate (4.76 g, 17.88 mmol) were suspended in DMF (27 mL) and water (2.7 mL), and the mixed solution was stirred at 120° C. for 15 minutes under microwave irradiation. After the reaction solution was left to cool, water (10 mL) and concentrated hydrochloric acid (5 mL) were sequentially added thereto, and the solution was stirred at room temperature for 2 hours. The solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with water and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/1). The resulting foamy solid was recrystallized from ethyl acetate-heptane, whereby the objective compound (2.70 g, 69.5%) was obtained as a white solid.

reactant | N-{[6-Bromo-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide | 8.94 mmol, 4.0 g | BrC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)CNC(C2=CC=C(C=C2)F)=O)C1 | C17H11BrF4N2O3
reactant | [1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl]boronic acid | 13.42 mmol, 2.63 g | O1C(CCCC1)N1N=CC=C1B(O)O | C8H13BN2O3
reactant | potassium phosphate trihydrate | 17.88 mmol, 4.76 g | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | DMF | 27 mL | CN(C)C=O | C3H7NO
solvent | water | 2.7 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 4-fluoro-N-{[2-oxo-6-(1H-pyrazol-5-yl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}benzamide | FC1=CC=C(C(=O)NCC2(OC(NC3=C2C=C(C=C3)C3=CC=NN3)=O)C(F)(F)F)C=C1 | C20H14F4N4O3
